US07723330B2
Step C: Preparation of 5-bromo-2-(cyclopropylmethylamino)-3-methylpyrimidin-4(3H)-one:
A mixture of 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one (0.100 g, 0.45 mmol), cyclopropylmethanamine (0.051 mL, 0.58 mmol) and NaHCO3 (0.150 g, 1.79 mmol) in n-BuOH (3 mL) was stirred at 60° C. for 1 hour. The reaction mixture was cooled to room temperature and then diluted with EtOAc. The EtOAc layer washed with H2O and saturated aqueous NaCl. The aqueous phase was re-extracted with EtOAc (1×). The combined EtOAc layers were dried (Na2SO4), filtered and concentrated to yield the desired product (0.114 g, 98%) as a pale yellow solid that was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.93 (s, 1H), 7.46 (t, J=5.5 Hz, 1H), 3.33 (s, 3H), 3.19 (t, J=6.2 Hz, 2H), 1.12 (m, 1H), 0.43 (m, 2H), 0.24 (m, 2H). LRMS (ESI pos) m/e 258, 260 (M+1, Br pattern).

reactant | 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one | 0.45 mmol, 0.100 g | BrC=1C(N(C(=NC1)Cl)C)=O | C5H4BrClN2O
reactant | cyclopropylmethanamine | 0.58 mmol, 0.051 mL | C1(CC1)CN | C4H9N
reactant | NaHCO3 | 1.79 mmol, 0.150 g | C(=O)(O)[O-].[Na+]
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(cyclopropylmethylamino)-3-methylpyrimidin-4(3H)-one | 0.114 g, 98% | BrC=1C(N(C(=NC1)NCC1CC1)C)=O | C9H12BrN3O
